US07842696B2
DIPEA (0.143 mL, 0.83 mmol) was added to a stirred solution of [(furan-2-carbonyl)-amino]-acetic acid (40 mg, 0.24 mmol) in DMF (1 mL). HOBT (38 mg, 0.28 mmol), EDCI.HCl (54 mg, 0.28 mmol) were added, followed by the addition of piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride (0.2602 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude product. Purification using column chromatography (using silica gel, 60-120 A° and 10% methanol in chloroform as the eluent) afforded furan-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl}-amide in 33% yield. LC-MS purity: 83%, 1H NMR (CDCl3): δ 7.74 (d, 1H), 7.60 (m, 2H), 7.56 (d, 2H), 7.48 (s, 1H), 7.12 (t, 1H), 6.50 (q, 1H), 4.30 (m, 2H), 4.08-3.82 (m, 2H), 3.78-3.64 (m, 2H), 3.62-3.48 (m, 2H), 3.22 (m, 2H).

reactant | DIPEA | 0.83 mmol, 0.143 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | [(furan-2-carbonyl)-amino]-acetic acid | 0.24 mmol, 40 mg | O1C(=CC=C1)C(=O)NCC(=O)O | C7H7NO4
reactant | HOBT | 0.28 mmol, 38 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.28 mmol, 54 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 0.2602 mmol | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | furan-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl}-amide | 33% yield | O=C(CNC(=O)C=1OC=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C19H18F3N3O4
